US05244890
A mixture of 5-benzyloxy-2-vinyl-4-pyridone (2.90 g) and pyrrolidine (5.33 ml) was heated and refluxed for an hour. The mixture was cooled and diluted with tetrahydrofuran (20 ml) and diisopropyl ether (80 ml). After being stirred for an hour at ambient temperature, the resulting precipitate was collected by filtration, washed with diisopropyl ether and air-dried at ambient temperature to give 5-benzyloxy-2-[2-(1-pyrrolidinyl)ethyl]4-pyridone (3.79 g).

reactant | 5-benzyloxy-2-vinyl-4-pyridone | 2.90 g | C(C1=CC=CC=C1)OC=1C(CC(=NC1)C=C)=O | C14H13NO2
reactant | pyrrolidine | 5.33 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diisopropyl ether | 80 ml | C(C)(C)OC(C)C | C6H14O
product | 5-benzyloxy-2-[2-(1-pyrrolidinyl)ethyl]4-pyridone | 3.79 g | C(C1=CC=CC=C1)OC=1C(CC(=NC1)CCN1CCCC1)=O | C18H22N2O2
